US04194003
To 100 ml 1,2-dichloroethane are added 5 g 3-chloro-benzoyl chloride followed by 8.4 g aluminium chloride. The mixture is cooled to 5° C. and 4 g methyl 1-methylpyrrole-2-carboxylate dissolved in 15 ml 1,2-dichloroethane are added thereto. The resulting mixture is stirred 0.5 hour at said temperature and then 1 hour at room temperature, after which the solution is hydrolyzed over ice, the organic phase is decanted and the solvent is evaporated off. Recrystallization of the solid residue from methanol give 7.5 g methyl 1-methyl-4-(3-chlorobenzoyl)pyrrole-2-carboxylate, m.p.=126° C.

reactant | 3-chloro-benzoyl chloride | 5 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | aluminium chloride | 8.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl 1-methylpyrrole-2-carboxylate | 4 g | CN1C(=CC=C1)C(=O)OC | C7H9NO2
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | methyl 1-methyl-4-(3-chlorobenzoyl)pyrrole-2-carboxylate | 7.5 g | CN1C(=CC(=C1)C(C1=CC(=CC=C1)Cl)=O)C(=O)OC | C14H12ClNO3
